US05686623
147.5 mg (0.50 mmol) of methyl (2S,3S)-3-t-butoxycarbonylamino-3-phenyl-2-hydroxypropionate and 2.5 cm3 of anhydrous toluene are introduced, under an argon atmosphere, into a 10 cm3 round-bottomed flask equipped with a magnetic stirrer system. 10 grains of 4 Åmolecular sieve, 188.5 μl (144.2 mg, 2.0 mmol) of 2-methoxypropene and 12.5 mg (0.05 mmol) of pyridinium p-toluenesulphonate are then added to the suspension obtained. The mixture is allowed to react for 1 hour at a temperature in the region of 20° C. and is then heated to 120° C. and allowed to react at this temperature for 2 hours. The resulting dark-brown reaction mixture is cooled to a temperature in the region of 20° C. 60 cm3 of dichloromethane are added. The organic phase is washed with 5 cm3 of a saturated aqueous sodium hydrogen-carbonate solution, 3 times with 5 cm3 of water and then once with 5 cm3 of a saturated aqueous sodium chloride solution. The organic phase is dried over anhydrous sodium sulphate. After filtration and concentration to dryness under reduced pressure, a residue is obtained which is chromatographed on a column of silica gel, eluting with an ethyl ether/hexane (15/85 by volume) mixture. There are obtained, with a yield of 36%, 60 mg (0.18 mmol) of (4S,5S)-3-t-butoxycarbonyl-2,2-dimethyl-4-phenyl-5-methoxycarbonyl-1,3-oxazolidine, the characteristics of which are the following:

reactant | methyl (2S,3S)-3-t-butoxycarbonylamino-3-phenyl-2-hydroxypropionate | 0.50 mmol, 147.5 mg | C(C)(C)(C)OC(=O)N[C@H]([C@@H](C(=O)OC)O)C1=CC=CC=C1 | C15H21NO5
reactant | toluene | 2.5 cm3 | C1(=CC=CC=C1)C | C7H8
reactant | 2-methoxypropene | 2.0 mmol, 188.5 μl, 144.2 mg | COC(=C)C | C4H8O
reactant | pyridinium p-toluenesulphonate | 0.05 mmol, 12.5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 60 cm3 | ClCCl | CH2Cl2
product | (4S,5S)-3-t-butoxycarbonyl-2,2-dimethyl-4-phenyl-5-methoxycarbonyl-1,3-oxazolidine | 0.18 mmol, 60 mg, yield of 36% | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@@H]1C1=CC=CC=C1)C(=O)OC)(C)C | C18H25NO5
